US06855710B2
c) (Z)-3-(1-Anilino-1-phenyl-methylidene)-2-indolinone
450 mg (1.5 mmol) of 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 0.41 ml of (4.5 mmol) of aniline are stirred in 7 ml of DMF for 90 minutes at 120° C. After cooling to ambient temperature 7 ml of methanol and 3 ml of 1N sodium hydroxide solution are added. The mixture is stirred for 20 minutes, then diluted with water, the crystalline reaction product is suction filtered and dried.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | 1.5 mmol, 450 mg | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | aniline | 4.5 mmol, 0.41 ml | NC1=CC=CC=C1 | C6H7N
reactant | methanol | 7 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (Z)-3-(1-Anilino-1-phenyl-methylidene)-2-indolinone | N(C1=CC=CC=C1)\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C21H16N2O
